US08557805B2
{2-[5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid
To a solution of ethyl {2-[5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate (16.1 g) in ethanol (100 mL) and tetrahydrofuran (100 mL) was added 1N aqueous sodium hydroxide solution (58 mL), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated, water was added to the residue, and the mixture was washed with ethyl acetate. To the aqueous layer was added 1N hydrochloric acid (58 mL), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give the title compound (15 g, yield 98%) as a brown amorphous solid.

reactant | ethyl {2-[5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 16.1 g | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)OCC | C26H29N3O7S2
reactant | sodium hydroxide | 1N, 58 mL | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | {2-[5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 15 g, yield 98% | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)O | C24H25N3O7S2
